Netlist to Test the Xyce Voltage Controlled Current Source Model
******************************************************************************
* Tier No.:	1                                                             
* Description:	Test of Xyce voltage controlled current source
*		model using a simple resistor circuit.  A DC operating point
*		analysis is performed to obtain the transfer function
*		characteristics of the circuit (i.e., Rin, Rout, 
*		and voltage gain, Vout/Vin).
* Input:	1-12V DC Source, V
* Output:	V(2), V(3), Rin, Rout, V(3)/V
* Circuit Elements: resistors (4), VCCS
* Analysis:
*		The VCCS, G,  is a function of the voltage, V(2), across R2.
*		The CCCS has a factor k*V=0.02*V(2).  The k must have the unit of 
*		conductance (1/ohms) to make k and V equal amps.  The voltage V(2)
*		found by voltage division is		 
*			V(2) = VIN * R2/(R1 + R2) = VIN * 0.75
*		The current through the dependent source, G, is 
*			k*V(2) = 0.02 * VIN * 0.75 = VIN * 0.015
*		The current through the dependent source is divided evenly
*		through resistors R3 and R4 (which are in parallel) giving
*		VIN*0.0075 through each resistor.  The currents go from
*		node 0 to node 3 (tail to tip), making the voltage at node 3
*			V(3) = -(R3*VIN*0.0075) = -(VIN*1.5)
*		Additionally, Rin, Rout and the voltage gain are:
*			Rin  = R1 + R2 = 300 + 900 =		1200 Ohms
*			Rout = R3||R4 = 200||200 =		100 Ohms
*			V(3)/VIN =                              -1.5 
****************************************************************************** 
VIN 1 0 DC 12V
G 3 0 2 0 0.02
R1 1 2 300
R2 2 0 900
R3 3 0 200
R4 3 0 200
.DC VIN 1 12 1
.PRINT DC V(1) V(2) V(3) 
* NOTE: XYCE DOES NOT CURRENTLY SUPPORT TRANSFER FUNCTION ANALYSIS 
* THIS PORTION HAS BEEN COMMENTED OUT UNTIL TF IS SUPPORTED
*.TF V(3) V
.END
